US07402595B2
2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde
Under a nitrogen stream, to a solution of oxalyl chloride (0.54 ml) in THF (28 ml) was added dropwise a solution of DMSO (0.58 ml) in THF (5 ml) at −70° C. or below and the mixture was stirred for 10 min. A solution of 2-benzyl-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one (1.30 g) in THF (7 ml) was added dropwise at −70° C. or below and the mixture was stirred at −60° C. to −50° C. for 1 hr. To the reaction mixture was added dropwise triethylamine (3.1 ml) at 50° C. or below and the mixture was allowed to warm to room temperature and stirred for 30 min. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from ethyl acetate-hexane to give the title compound (810 mg).

reactant | oxalyl chloride | 0.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.58 ml | CS(=O)C | C2H6OS
reactant | 2-benzyl-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one | 1.30 g | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1CO)C1=CC=CC=C1)Br)=O | C23H18BrNO2
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 28 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde | 810 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C=O)C1=CC=CC=C1)Br)=O | C23H16BrNO2
